US08377942B2
Sodium azide (3.3 g) is added to a solution of 5-(3,5-dichloro-phenyl)-3-(4-fluoro-naphthalen-1-yl)-5-trifluoromethyl-4,5-dihydro-isoxazole (10.7 g) in DMF (50 ml). After 20 hours at 80° C. another portion of sodium azide is added (3.3 g) and the reaction mixture is stirred for 20 hours at 80° C. The solution is cooled to room temperature and the volume concentrated to 10 ml in vacuo. Water and ethyl acetate are added and the precipitate is collected after filtration to yield 3-(4-azido-naphthalen-1-yl)-5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole as a beige solid: 183-185° C.

reactant | Sodium azide | 3.3 g | [N-]=[N+]=[N-].[Na+]
reactant | 5-(3,5-dichloro-phenyl)-3-(4-fluoro-naphthalen-1-yl)-5-trifluoromethyl-4,5-dihydro-isoxazole | 10.7 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)F)C(F)(F)F | C20H11Cl2F4NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-(4-azido-naphthalen-1-yl)-5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole | N(=[N+]=[N-])C1=CC=C(C2=CC=CC=C12)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C20H11Cl2F3N4O
